US06903129B2
A mixture of 410 mg (0.92 mmol) (R)-1-[6-[(R)-2-but-3-enyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid but-3-enyl ester and 40 mg benzylidene-bis(tricyclohexylphosphine)dichlororuthenium in 30 ml dry dichloromethane was stirred at 50° C. overnight. Removal of the solvent and chromatography on silicagel with ethylacetate/acetone with a ratio of 8/2 gave 200 mg (51%) (12R,23R)-14,21-dioxa-1,8-diaza-tricyclo[21.3.0.0 8,12]hexacos-17-ene-2,7,13,22-tetraone as an oil, MS m/e (%): 421 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-but-3-enyloxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid but-3-enyl ester | 0.92 mmol, 410 mg | C(CC=C)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCCC=C)=O | C24H36N2O6
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
catalyst | benzylidene-bis(tricyclohexylphosphine)dichlororuthenium | 40 mg | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1=CC=C(C=C1)C=[Ru](Cl)Cl
product | (12R,23R)-14,21-dioxa-1,8-diaza-tricyclo[21.3.0.0 8,12]hexacos-17-ene-2,7,13,22-tetraone | 200 mg, 51% | N12C(CCCCC(N3CCC[C@@H]3C(OCCC=CCCOC([C@H]2CCC1)=O)=O)=O)=O | C22H32N2O6
